US05919932
3-Hydroxy-3-(2-methoxyphenyl)-8-methyl-8-azabicyclo[3.2.1]octane
A stirred solution of 2-bromoanisole (9.25 ml, 0.074 mol) in dry diethyl ether (110 ml) under argon was cooled to 0° C. and was treated with n-butyllithium (1.6M) (45.6 ml, 0.073 mol) slowly. The reaction mixture was then allowed to warm to room temp. After 0.5 h, a solution of tropinone (10.14 g, 0.073 mol) in dry diethyl ether (60 ml) was added causing the reaction mixture to reflux. Reflux was maintained for a further 0.5 h, before the reaction mixture was allowed to cool. Water (40 ml) was then added and the reaction mixture was stirred for 0.25 h. The organic layer was then separated, dried (Na2SO4) and evaporated under reduced pressure to give a pale yellow oily solid, which was triturated with petroleum ether (60-80). The resultant suspension was then filtered to give the title compound as a white solid, which was dried in vacuo (9.04 g, 50%).

reactant | 2-bromoanisole | 0.074 mol, 9.25 ml | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | 0.073 mol, 1.6M, 45.6 ml | C(CCC)[Li]
reactant | tropinone | 0.073 mol, 10.14 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | Water | 40 ml | O | H2O
solvent | diethyl ether | 110 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 3-Hydroxy-3-(2-methoxyphenyl)-8-methyl-8-azabicyclo[3.2.1]octane | OC1(CC2CCC(C1)N2C)C2=C(C=CC=C2)OC | C15H21NO2
